US07943622B2
Step 2. Synthesis of 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)oxazolo[4,5-b]pyridine hydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(oxazolo[4,5-b]pyridin-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (273 mg, 0.664 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were combined and brought to pH 12 with 1 N NaOH and were extracted with EtOAc (3×). The combined organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was dissolved in MeOH (1 mL) and 4 M HCl in 1,4-dioxane (1 equiv. HCl, 0.116 mL) was added. The mixture was concentrated under reduced pressure to give 148 mg (64%) of the desired product as the hydrochloride salt. LC-MS: RT=2.18 min, [M+H]+=312.5.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(oxazolo[4,5-b]pyridin-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.664 mmol, 273 mg | O1C(=NC2=NC=CC=C21)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2 | C21H25N5O4
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 0.116 mL, 1 equiv | O1CCOCC1 | C4H8O2
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)oxazolo[4,5-b]pyridine hydrochloride | 148 mg, 64% | Cl.N1=CC(=CC=C1)OCC1N(CCNC1)C=1OC=2C(=NC=CC2)N1 | InChI=1S/C16H17N5O2.ClH/c1-3-13(10-17-5-1)22-11-12-9-18-7-8-21(12)16-20-15-14(23-16)4-2-6-19-15;/h1-6,10,12,18H,7-9,11H2;1H
